US05550131
(S)-4-(N-Benzyloxycarbonyl-4-Methoxycarbonyl-L-Phenylalanyl)-3-Methoxycarbonylmethyl-2-Oxopiperazine-1-Acetic Acid tButyl Ester
In 7.6 ml of methylene chloride were dissolved 0.76 g of (S)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid t butyl ester oxalic acid salt and 0.47 g of N-benzyloxycarbonyl-4-methoxycarbonyl-L-phenylalanine. To the solution was added gradually, while cooling with water, 0.44 g of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide, over 5 minutes. The mixture was stirred for one hour at room temperature, then methylene chloride was distilled off under reduced pressure. The residue was dissolved in ethyl acetate. The solution was washed with a 5% aqueous solution of potassium hydrogensulfate and a saturated aqueous solution of hydrogencarbonate. The organic layer was dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by means of a silica gel chromatography (hexane/ethyl acetate=l/2) to give 0.46 g (51.1%) of the title compound as a colorless oily product.

reactant | (S)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid t butyl ester oxalic acid salt | 0.76 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN1C([C@@H](NCC1)CC(=O)OC)=O)=O
reactant | N-benzyloxycarbonyl-4-methoxycarbonyl-L-phenylalanine | 0.47 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)C(=O)OC)C(=O)O | C19H19NO6
reactant | water | O | H2O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 0.44 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 7.6 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(N-Benzyloxycarbonyl-4-Methoxycarbonyl-L-Phenylalanyl)-3-Methoxycarbonylmethyl-2-Oxopiperazine-1-Acetic Acid | 0.46 g, 51.1% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)C(=O)OC)C(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CC(=O)OC | C28H31N3O10
